US04666633
The anion exchange resin used in Example 7 was regenerated by washing with 500 ml of a 4% aqueous caustic soda solution and then with methanol and acetonitrile to remove water. 0.43 g (0.005 mol) of methacrylic acid and 1.39 g (0.005 mol) of triphenylmethyl chloride were dissolved in methylene chloride and reacted together batchwise in the presence of the above regenerated resin to give 1.59 g (yield: 96.0%) of triphenylmethyl methacrylate.

reactant | methacrylic acid | 0.005 mol, 0.43 g | C(C(=C)C)(=O)O | C4H6O2
reactant | triphenylmethyl chloride | 0.005 mol, 1.39 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | triphenylmethyl methacrylate | 1.59 g, yield: 96.0% | C(C(=C)C)(=O)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20O2
